US05106845
A flask containing 2-methylthio-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydroiodide (4.39 g, 1.47×10-2 mole) and 2,2-diphenylethylamine (2.90 g, 1.47×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 155°-165° C. for 40 minutes. The resulting yellow glass was dissolved in methanol. The methanol was evaporated at reduced pressure and isopropanol was added periodically during the course of the evaporation. When the solution had been concentrated to ca. 20 ml, it was set aside to cool. After 4 days the solution had deposited a solid which was collected by filtration. This guanidine hydroiodide was dissolved in a two phase mixture of 5 molar aqueous NaOH (100 ml) and CH2Cl2 (100 ml). After stirring overnight the CH2Cl2 layer was separated. The aqueous alkaline layer was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a colorless foam which was dissolved in methanol (50 ml). The solution was cooled to 0° C. before being treated with a methanolic solution of HCl. The methanol was evaporated at reduced pressure leaving a foam. The foam was dissolved in methanol (10-15 ml) and 2-butanone was added. The solution was then concentrated on the steam bath. When the temperature of the solution reached ca. 75° C. a solid began to precipitate and the evaporation was stopped. After standing 2 hours the precipitate was collected by filtration affording a solid. This material was recrystallized from methanol/2-butanone affording 2-2,2-diphenylethylamino)-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydrochloride as a colorless solid: 3.86 g (74%), m.p. 216°-218° C.

reactant | 2-methylthio-trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydroiodide | 1.47×10-2 mole, 4.39 g | I.CSC1=N[C@H]2[C@H](N1)CCCC2
reactant | 2,2-diphenylethylamine | 1.47×10-2 mole, 2.90 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | HCl | Cl | ClH
reactant | 2-butanone | CC(CC)=O | C4H8O
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 10-15 ml | CO | CH4O
product | trans-3a,4,5,6,7,7a-hexahydro-1H-benzimidazole hydrochloride | Cl.N1C=N[C@H]2[C@H]1CCCC2 | InChI=1S/C7H12N2.ClH/c1-2-4-7-6(3-1)8-5-9-7;/h5-7H,1-4H2,(H,8,9);1H/t6-,7-;/m1./s1
